US04835180
To a solution of 109 g (1 mol) of p-aminophenol and 92.9 mL (1.15 mol) of pyridine in 1 L of t-butylmethylether at -10° was added 156 mL (1.1 mol) of trifluoroacetic anhydride. During addition the temperature was maintained below 0° C. After the addition was complete, the temperature was allowed to rise to 15° C., at which point a saturated solution of sodium chloride was added and the reaction stirred rapidly for 15 minutes. The layers were separated and the organic layer washed twice with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo to yield 194.1 g (95%) of N-(4-hydroxyphenyl)trifluoroacetamide. The 194 g (0.95 mol) of N-(4-hydroxyphenyl)trifluoroacetamide was slurried in 3 L of methylene chloride containing 500 mg of p-toluenesulfonic acid. The mixture was stirred at room temperature and 250 mL (2.73 mol) of dihydropyran was added dropwise over 30 minutes. The reaction was stirred 18 hours at room temperature and approximately 1 L of saturated sodium bicarbonate solution was added with vigorous stirring for 30 minutes. The methylene chloride layer was separated, dried over magnesium sulfate, and concentrated to yield a reddish solid which was recrystallized from about 400 mL of toluene to yield 239 g (87%) of N-[4-[(tetrahydropyran-2-yl)oxy]phenyl]trifluoroacetamide. The diprotected aminophenol (8.67 g, 0.03 mol) was dissolved in 60 mL of dry DMF and stirred vigorously with 12.4 g (0.09 mol) of milled potassium carbonate and 6.3 mL (0.075 mol) of 7-bromoheptanenitrile. The reaction was heated on a steam bath for 21/4 hours, then cooled, and a mixture of 50 mL of water, 30 mL of methanol and 15 g of potassium carbonate was added with stirring. The mixture was heated on a steam bath for one hour and then let stand 18 hours. The reaction was poured into water and extracted two times with ether. The ether layers were combined and washed with saturated sodium chloride solution three times, dried over magnesium sulfate, and concentrated in vacuo to yield 9.5 g (90%) of tetrahydropyranyl-protected 7-[(4-hydroxyphenyl)amino]heptanenitrile, containing less than 10% of 6-heptenenitrile. The alkylation was performed less satisfactorily using sodium hydride or cesium fluoride in place of milled potassium carbonate as the base, in which case a separate step using potassium carbonate in methanol-water was required to remove the trifluoroacetyl protecting group. The tetrahydropyranyl-protected product was stirred for one hour in 100 mL of 1.5N HCl. The reaction was washed with ether and the aqueous layer was slowly added to ice-cold, saturated sodium bicarbonate. The precipitate was washed with water and dried to yield 6.1 g of 7-[(4-hydroxyphenyl)amino]heptanenitrile.

reactant | N-(4-hydroxyphenyl)trifluoroacetamide | 0.95 mol, 194 g | OC1=CC=C(C=C1)NC(C(F)(F)F)=O | C8H6F3NO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dihydropyran | 2.73 mol, 250 mL | O1CCCC=C1 | C5H8O
reactant | sodium bicarbonate | approximately 1 L | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 3 L, 500 mg | C(Cl)Cl | CH2Cl2
product | N-[4-[(tetrahydropyran-2-yl)oxy]phenyl]trifluoroacetamide | 239 g, 87% | O1C(CCCC1)OC1=CC=C(C=C1)NC(C(F)(F)F)=O | C13H14F3NO3
